* Simple RC Filter Circuit
* Input -> R1 -> Node1 -> C1 -> GND
*           |                |
*           +---- R2 ----+---- Output

V1  in   gnd  5
R1  in   node1  1k
R2  node1 out  2k
C1  node1 gnd  10u
C2  out  gnd  22p

* Additional components for testing
L1  node1 node2  100u
D1  node2 gnd  1N4148
