* Test Circuit - Simple RC Filter
* Format: <name> <node1> <node2> [value]

* Power supplies
V1  vdd   gnd  1.8

* Input source
V2  in    gnd  5

* Resistors
R1  in    node1  1k
R2  node1 node2  2k
R3  node2 out   500

* Capacitors
C1  node1 gnd   10u
C2  node2 gnd   22u
C3  out   gnd   47u

* Inductor
L1  node1 node2  100u

* Additional nodes for testing
R4  node3 gnd    1k
C4  node3 gnd    100p
