* Test Circuit - Simple RC Filter with Transistor
* Verilog-style netlist

* Power and Ground
V1  vdd   gnd  1.8
V2  in    gnd  0  PULSE(0 1.8 0 1ns 1ns 10ns 20ns)

* Resistors
R1  vdd   n1   10k
R2  n1    n2   5k
R3  n2    out  2k
R4  out   gnd  1k

* Capacitors
C1  n1    gnd  10p
C2  n2    gnd  22p
C3  out   gnd  47p

* Inductor
L1  vdd   n1   100n

* MOSFET transistors (simplified)
M1  n1    in   gnd  gnd  nmos  W=1u  L=0.18u
M2  out   n1   vdd  vdd  pmos  W=2u  L=0.18u

* Diode
D1  n2    gnd  D1N4148

* Current source
I1  vdd   n3   1mA

* Additional components for more complex netlist
R5  n3    gnd  500
C4  n3    gnd  100p
